US08669271B2
4-(5-Pyridazin-4-yl-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester
A mixture of 4-(5-chloro-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester (50 mg) and 4-(tributylstannyl)pyridazine (60 mg) in N,N-dimethylformamide (1 mL) is sparged with argon for 10 min and Pd(PPh3)3 (16 mg) is added. The resulting mixture is heated in an oil bath to 120° C. for 7 h. Ethyl acetate and water are added and the organic phase is separated, dried over MgSO4, and concentrated in vacuo. The residue is chromatographed on silica gel (dichloromethane/methanol 95:5→90:10). The crude product is triturated with diethyl ether, filtered off, and dried to give the title compound. LC (method 7): tR=1.35 min; Mass spectrum (ESI+): m/z=383 [M+H]+.

reactant | 4-(5-chloro-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | 50 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CC=2C(=CN=C(C2)Cl)O1 | C17H23ClN2O3
reactant | 4-(tributylstannyl)pyridazine | 60 mg | C(CCC)[Sn](C1=CN=NC=C1)(CCCC)CCCC
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 4-(5-Pyridazin-4-yl-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CC=2C(=CN=C(C2)C2=CN=NC=C2)O1 | C21H26N4O3
